US08217031B2
5,6,7,8-Tetrahydro-4H-thieno[2,3-c]azepin-4-ol
A solution of 2.1 g of 5,6,7,8-tetrahydrothieno-[2,3-c]azepin-4-one prepared in the step 5 in 20 mL of methanol was cooled with ice, 0.28 g of sodium borohydride was slowly added thereto and the mixture was stirred for 3 hours at room temperature. The reaction solution was slowly added to ice water so that an excess of sodium borohydride was decomposed and, after that, the reaction solution was subjected to extraction with diethyl ether. The organic layer was washed with a saturated solution of sodium chloride and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom in vacuo to give 1.37 g of the objective compound.

reactant | 5,6,7,8-tetrahydrothieno-[2,3-c]azepin-4-one | 2.1 g | S1C=CC2=C1CNCCC2=O | C8H9NOS
reactant | sodium borohydride | 0.28 g | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 5,6,7,8-Tetrahydro-4H-thieno[2,3-c]azepin-4-ol | 1.37 g | S1C=CC2=C1CNCCC2O | C8H11NOS
